* 5F6-A (Tweed Bassman-style) — DC operating-point netlist
* Circuit Codex — CC-BY-SA 4.0. Independently drawn from the published 5F6-A
* (I-EG) drawing's component values (see meta.yaml); no drawing reproduced.
*
* DC conventions: B+1 driven at the printed +432 V; downstream nodes DERIVED.
* Choke (14684) modeled as 130R DCR estimate (drawing prints 432 -> 430 across
* it). OT primary DCR omitted. Bias supply replaced by an ideal -48 V source
* (its 15k/56k/8uF network is AC/ripple filtering). DC-open caps are MODELLED
* where both leads land on a named DC node (the PI->output couplers C8/C9 below,
* the V3B grid's AC ground C7, and the shared 12AY7 cathode-bypass C3) so their
* board placement is layout-checked; open at DC, they move no operating point.
* Caps into the abstracted volume/tone network, and the presence pot's wiper
* cap C16, stay omitted.
.include models/12ay7.inc
.include models/12ax7.inc
.include models/5881.inc

VBP1 BP1 0 DC 432
VBIAS NBIAS 0 DC -48

* rail: choke -> screens node, 4700R -> PI node, 10k -> preamp node
RCHOKE BP1 BP2 130
RD1 BP2 BP3 4.7k
RD2 BP3 BP4 10k

* V1 12AY7 — bright + normal channels, shared 820R cathode (250uF bypass)
RL1 BP4 PAY1 100k
XV1A PAY1 GAY1 KAY 12AY7
RG1 GAY1 0 1meg
RL2 BP4 PAY2 100k
XV1B PAY2 GAY2 KAY 12AY7
RG2 GAY2 0 1meg
RK1 KAY 0 820

* V2A 12AX7 second stage (grid returns through vol pots + 270k mixers at DC)
RL3 BP4 P2A 100k
XV2A P2A G2A K2A 12AX7
RG3 G2A 0 1meg
RK2 K2A 0 820

* V2B cathode follower — grid DC-coupled to V2A plate, 100k cathode load
XV2B BP4 P2A KCF 12AX7
RKCF KCF 0 100k

* Long-tailed-pair phase inverter (82k/100k 5% plates, 470R + 10k tail,
* both 1M grid leaks to the tail junction J; the 10k's foot is its own node)
RLA BP3 PPIA 82k
XV3A PPIA GPIA KPI 12AX7
RGA GPIA JPI 1meg
RLB BP3 PPIB 100k
XV3B PPIB GPIB KPI 12AX7
RGB GPIB JPI 1meg
RTAIL KPI JPI 470
RT2 JPI PRES 10k
* The tail's foot, as the I-EG schematic and layout both wire it: the 10k does
* not return to ground but to a node of its own, PRES, which carries the 27k
* negative-feedback resistor from the speaker (the OT secondary is DC ground, so
* its far end is node 0), the top of the 5k presence pot's track (lower lug to
* ground; its 0.1 uF wiper cap C16 is open at DC and omitted) and the V3B grid's
* 0.1 uF AC ground C7. The 27k and the 5k track are both DC returns, so the foot
* sits at the tail current times their 4.2k parallel resistance. The printed
* tail figures do not fit this topology: see the KPI/JPI notes in voltages.yaml.
RNF PRES 0 27k
RPRES PRES 0 5k
C7 GPIB PRES 0.1u

* 5881 pair — two separate output bottles V4 and V5 (each a full 5881 on its own
* octal socket), fixed bias via 220k leaks from -48 V, 470R-1W screen resistors.
* NOTE: these MUST be two distinct bottle instances (XV4 / XV5). Naming them
* XV5A / XV5B would collapse them into one dual-section bottle "V5" (the netlist
* parser reads the trailing A/B as triode-half sections), which is wrong for two
* single-ended power pentodes and mis-anchors the layout-equivalence check.
RGL1 NBIAS G51 220k
XV4 BP1 S51 G51 0 5881
RS1 BP2 S51 470
RGL2 NBIAS G52 220k
XV5 BP1 S52 G52 0 5881
RS2 BP2 S52 470
* PI-plate -> output-grid coupling caps (0.1u, DC-open). Modelled so the layout-
* equivalence gate checks the inter-stage routing and push-pull phase natively:
* C8 carries V3A (82k plate) to the V4 grid, C9 carries V3B (100k plate) to the
* V5 grid. At DC each grid still sits at the -48 V bias node through its 220k
* leak (no grid current), so these add no DC loading and the op point is unmoved.
C8 PPIA G51 0.1u
C9 PPIB G52 0.1u

* cathode-bypass cap (both leads on a named DC node — placement layout-checked)
C3 KAY 0 250u
